US04233302
A. 2-[[2-(2-Pyridinyl)ethyl]thio]ethanamine dihydrochloride
To a solution of sodium (9.2 g) in ethanol (300 ml) at 5° was added 2-aminoethanethiol hydrochloride (24 g). The solution was stirred at 5°-10° for 1.5 hr, 2-ethenylpyridine (20 g) was added and the mixture refluxed for 16 hr. The cooled mixture was filtered, the filtrate evaporated to dryness and the residue extracted with ether. Excess ethereal hydrogen chloride was added and the gummy precipitate crystallised from methanol-isopropanol to give the title compound (12.5 g) m.p. 151°-154°.

reactant | sodium | 9.2 g | [Na] | Na
reactant | 2-aminoethanethiol hydrochloride | 24 g | Cl.NCCS
reactant | 2-ethenylpyridine | 20 g | C(=C)C1=NC=CC=C1 | C7H7N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-[[2-(2-Pyridinyl)ethyl]thio]ethanamine dihydrochloride | 12.5 g | Cl.Cl.N1=C(C=CC=C1)CCSCCN | InChI=1S/C9H14N2S.2ClH/c10-5-8-12-7-4-9-3-1-2-6-11-9;;/h1-3,6H,4-5,7-8,10H2;2*1H
